US07691867B2
Sodium triacetoxyborohydride (0.11 g, 0.52 mmol) was added to a mixture of N-(3-fluorophenyl)-2-[4-({7-[(2S)-pyrrolidin-2-ylmethoxy]quinazolin-4-yl}amino)-1H-pyrazol-1-yl]acetamide bis(trifluoroacetate) (0.20 g, 0.29 mmol) and (tert-butyldimethylsilyloxy)acetaldehyde (0.10 ml, 0.52 mmol) in tetrahydrofuran (9 ml) and methanol (3 ml) containing a catalytic amount of acetic acid. The mixture was stirred at room temperature for 1 hour. A further portion of sodium triacetoxyborohydride (0.22 g, 1.04 mmol) was added and the mixture stirred at room temperature for 1 hour. A further portion of sodium triacetoxyborohydride (0.22 g, 1.04 mmol) was added and the mixture stirred at room temperature overnight. The mixture was poured into sodium hydroxide solution (1M, 50 ml) and extracted with dichloromethane. The organic layer was separated, washed with brine, dried over magnesium sulphate and then evaporated to leave a yellow film which was purified by silica gel chromatography. Elution with 5 to 10% methanol in dichloromethane gave 2-{4-[(7-{[(2S)-1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)pyrrolidin-2-yl]methoxy}quinazolin-4-yl)amino]-1H-pyrazol-1-yl}-N-(3-fluorophenyl)acetamide (0.055 g, 31% yield): MS (+ve ESI): 620 (M+H)+.

reactant | Sodium triacetoxyborohydride | 0.52 mmol, 0.11 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | N-(3-fluorophenyl)-2-[4-({7-[(2S)-pyrrolidin-2-ylmethoxy]quinazolin-4-yl}amino)-1H-pyrazol-1-yl]acetamide bis(trifluoroacetate) | 0.29 mmol, 0.20 g | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.FC=1C=C(C=CC1)NC(CN1N=CC(=C1)NC1=NC=NC2=CC(=CC=C12)OC[C@H]1NCCC1)=O
reactant | (tert-butyldimethylsilyloxy)acetaldehyde | 0.52 mmol, 0.10 ml | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
reactant | sodium triacetoxyborohydride | 1.04 mmol, 0.22 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 1.04 mmol, 0.22 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1M, 50 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-{4-[(7-{[(2S)-1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)pyrrolidin-2-yl]methoxy}quinazolin-4-yl)amino]-1H-pyrazol-1-yl}-N-(3-fluorophenyl)acetamide | 0.055 g, 31% yield | [Si](C)(C)(C(C)(C)C)OCCN1[C@@H](CCC1)COC1=CC=C2C(=NC=NC2=C1)NC=1C=NN(C1)CC(=O)NC1=CC(=CC=C1)F | C32H42FN7O3Si
